
*start of netlist
XL4 VSS VDD Node_2 bit6 bit5 Node_1 S2 FA_X1
XL3 VSS VDD C bit8 bit7 Node_2 S3 FA_X1
XL2 VSS VDD Node_1 bit4 bit3 Node_3 S1 FA_X1
XL1 VSS VDD Node_3 bit2 bit1 bit0 S0 FA_X1

*end of netlist


